US07601738B2
Preparation of ethyl (3S, 4aR, 6R, 8aR) 6-methanesulfonyloxy-2-methoxycarbonyl-1,2,3,4,4a, 5,6,7,8,8a-decahydroisoquinoline-3-carboxylate
To an ice-cooled solution of ethyl (3S, 4aR, 6R, 8aR) 6-hydroxy-2-methoxycarbonyl-1,2,3,4,4a, 5,6,7,8,8a-decahydroisoquinoline-3-carboxylate (760 mg, 2.66 mmol) in dry dichloromethane (10 mL) under nitrogen, triethylamine (0.60 mL, 4.3 mmol) and methanesulfonyl chloride (0.33 mL, 4.3 mmol) were added. The resulting mixture was stirred overnight at room temperature and a saturated solution of ammonium chloride was added (10 mL). The layers were separated and the aqueous layer extracted with dichloromethane (10 mL×2). The combined organic phases were washed with 1 N hydrochloric acid (10 mL), dried over sodium sulfate and concentrated in vacuo to give the title compound as an oil (0.965 g, 100%).

reactant | ethyl (3S, 4aR, 6R, 8aR) 6-hydroxy-2-methoxycarbonyl-1,2,3,4,4a, 5,6,7,8,8a-decahydroisoquinoline-3-carboxylate | 2.66 mmol, 760 mg | O[C@H]1C[C@H]2C[C@H](N(C[C@@H]2CC1)C(=O)OC)C(=O)OCC | C14H23NO5
reactant | triethylamine | 4.3 mmol, 0.60 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 4.3 mmol, 0.33 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | ethyl (3S, 4aR, 6R, 8aR) 6-methanesulfonyloxy-2-methoxycarbonyl-1,2,3,4,4a, 5,6,7,8,8a-decahydroisoquinoline-3-carboxylate | 0.965 g, 100% | CS(=O)(=O)O[C@H]1C[C@H]2C[C@H](N(C[C@@H]2CC1)C(=O)OC)C(=O)OCC | C15H25NO7S
